US08022062B2
4-Aminomethyl-N-tert-butyl-benzamide:
Combine N-tert-butyl-4-cyano-benzamide (0.4 g, 1.78 mmol), Raney® 3201 nickel (slurry in water, 0.03 g), 2N ammonia in methanol (20 mL) and hydrogenate at 50 psi for 1 h. Filter the reaction mixture through a pad of Celite®, remove the solvent and purify by SCX chromatography to obtain the title compound as a colorless oil (0.4 g, 95%). MS (ES+) m/z: 207 (M+H)+.

reactant | N-tert-butyl-4-cyano-benzamide | 1.78 mmol, 0.4 g | C(C)(C)(C)NC(C1=CC=C(C=C1)C#N)=O | C12H14N2O
reactant | ammonia | 2N | N | H3N
solvent | methanol | 20 mL | CO | CH4O
catalyst | nickel | 0.03 g | [Ni] | Ni
product | 4-Aminomethyl-N-tert-butyl-benzamide | 0.4 g, 95% | NCC1=CC=C(C(=O)NC(C)(C)C)C=C1 | C12H18N2O
